US05981572
4-Bromomethyl-7-fluoro-benzofuran
A mixture of 7-fluoro-4-methyl-benzofuran (14.2 g), N-bromosuccinimide (19.7 g), benzoyl peroxide (0.5 g) and carbon tetrachloride (600 ml) was heated under reflux under the illumination of an 80 W flood lamp for 20 h. The mixture was cooled, and filtered and the filtrate evaporated to dryness to give the title compound as a pale orange oil (23.4 g)

reactant | 7-fluoro-4-methyl-benzofuran | 14.2 g | FC1=CC=C(C=2C=COC21)C | C9H7FO
reactant | N-bromosuccinimide | 19.7 g | BrN1C(CCC1=O)=O | C4H4BrNO2
catalyst | benzoyl peroxide | 0.5 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | 600 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 4-Bromomethyl-7-fluoro-benzofuran | 23.4 g | BrCC1=CC=C(C2=C1C=CO2)F | C9H6BrFO
